US07576095B2
Step 7 4-[(2,4-dichlorophenyl)amino]-1-piperidin-1-yl-5,6-dihydropyridin-2(1H)-one
1,1′-bipiperidine-2, 4-dione (1,000 g, 4,739 mmol) and 2,4-dichloroaniline (0.921 g, 5.687 mmol) were dissolved in 2-methyltetrahydrofuran (10 ml) and the reaction mixture was boiled under reflux for 22 h whilst the water formed was removed using a Dean and Stark apparatus. Upon cooling to rt the product precipitated and was collected by filtration to yield a white solid (1.490 g, 92%).

reactant | 1,1′-bipiperidine-2, 4-dione | 4,739 mmol, 1,000 g | N1(C(CC(CC1)=O)=O)N1CCCCC1 | C10H16N2O2
reactant | 2,4-dichloroaniline | 5.687 mmol, 0.921 g | ClC1=C(N)C=CC(=C1)Cl | C6H5Cl2N
reactant | water | O | H2O
solvent | 2-methyltetrahydrofuran | 10 ml | CC1OCCC1 | C5H10O
product | 4-[(2,4-dichlorophenyl)amino]-1-piperidin-1-yl-5,6-dihydropyridin-2(1H)-one | 1.490 g, 92% | ClC1=C(C=CC(=C1)Cl)NC1=CC(N(CC1)N1CCCCC1)=O | C16H19Cl2N3O
